* source BE_FINAL_PROJECT
R_R2         0 N00282  2.2k TC=0,0 
V_V2         N00919 0  
+SIN 0 10m 1k 0 0 0
X_Q1         N01027 N00919 N00282 awb2n3700 PARAMS:                            
+                 
R_R3         N01027 N01070  1k TC=0,0 
V_V3         N01070 0 0Vdc
